US08084448B2
B. 2-Benzyloxy-1-nitro-4-trifluoromethylbenzene
A mixture of 2-nitro-5-trifluoromethylphenol (730 mg, 3.5 mmol), benzyl bromide (0.42 mL, 3.5 mmol), and potassium carbonate (200 mg) in DMF (10 mL) is stirred at RT for 48 h. The mixture is partitioned between water and EtOAc, the organic layer is concentrated and the residue is chromatographed using a gradient of 5-20% EtOAc/hexane as eluent to afford the title compound as a light yellow solid.

reactant | 2-nitro-5-trifluoromethylphenol | 3.5 mmol, 730 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C(F)(F)F)O | C7H4F3NO3
reactant | benzyl bromide | 3.5 mmol, 0.42 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-1-nitro-4-trifluoromethylbenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C14H10F3NO3
